US06107458
To a suspension of 4-hexyloxybenzoic acid in oxalyl chloride (10 ml) and dichloromethane (10 ml) was added N,N-dimethylformamide (0.1 ml). The mixture was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure to give crude 4-hexyloxybenzoyl chloride. To a suspension of Ethyl 3-amino-4-hydroxybenzoate (733 mg) and triethylamine (1.38 ml) and 4-dimethylaminopyridine (DMAP, 10 mg) in methylene chloride (10 ml) was added the solution of 4-hexyloxybenzoyl chloride obtained above in dichloromethane (5 ml) dropwise at 10° C. The reaction mixture was stirred at 10° C. for 1.5 hours and diluted with dichloromethane (20 ml). The solution was washed with H2O (20 ml), 1 N HCl aq. (20 ml×2), H2O (20 ml) and brine (20 ml) successively. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. To the residue was added toluene (15 ml) and p-toluenesulfonic acid (10 mg). The mixture was refluxed for 6 hours and the solvent was removed under reduced pressure. The residue was triturated with acetonitrile, and precipitate was collected with filtration and dried over PO5 to give 2-(4-Hexyloxyphenyl)-5-ethoxycarbonylbenzoxazole (0.60 g).

reactant | 4-hexyloxybenzoic acid | C(CCCCC)OC1=CC=C(C(=O)O)C=C1 | C13H18O3
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | Ethyl 3-amino-4-hydroxybenzoate | 733 mg | NC=1C=C(C(=O)OCC)C=CC1O | C9H11NO3
reactant | 4-hexyloxybenzoyl chloride | C(CCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C13H17ClO2
solvent | oxalyl chloride | 10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.38 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-Hexyloxyphenyl)-5-ethoxycarbonylbenzoxazole | 0.60 g | C(CCCCC)OC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C(=O)OCC | C22H25NO4
